US05108486
Using procedures similar to those employed in Step A of Example 8, the reaction of 15.9 g (0.096 mole of 5-amino-2-diethylaminopyridine with 22.2 g (0.193 mole) of thiophosgene and 5.0 g (0.036 mole) of potassium carbonate in 50 ml of water and 150 ml of chloroform yielded 3.8 g of (2-diethylaminopyridin-5-yl) isothiocyanate as a solid. The nmr spectrum was consistent with the proposed structure.

reactant | 5-amino-2-diethylaminopyridine | 0.096 mole | NC=1C=CC(=NC1)N(CC)CC | C9H15N3
reactant | thiophosgene | 0.193 mole, 22.2 g | C(=S)(Cl)Cl | CCl2S
reactant | potassium carbonate | 0.036 mole, 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | (2-diethylaminopyridin-5-yl) isothiocyanate | 3.8 g | C(C)N(C1=NC=C(C=C1)N=C=S)CC | C10H13N3S
